US05494886
3-(4,6-Dimethoxy-1,3,5-triazin-2-yl)-1-(3-iodo-2-pyridylsulfonyl)urea
9.0 ml (18 mmol) of a 2M solution of trimethylaluminum in toluene are added dropwise at room temperature to 4.3 g (15 mmol) of 3-iodo-2-pyridinesulfonamide in 150 ml of dichloromethane. After evolution of gas has ceased, 3.85 [lacuna] (18 mmol) of methyl 4,6-dimethoxy-1,3,5-triazin-2-yl-carbamate in 20 ml of dichloromethane is added dropwise and the resulting solution is refluxed for 24 hours. The mixture is cooled and poured into 150 ml of ice-cold 1N hydrochloric acid. The organic phase is separated off and the aqueous phase is extractd 2× using dichloromethane. The organic phase is dried and evaporated. After triturating the crude product with diethyl ether, 3.1 g (44% of theory) of 3-(4,6-dimethoxy-1,3,5-triazin-2-yl)-1-(3-iodo-2-pyridylsulfonyl)urea of melting point 155 ° C. (dec.) are obtained.

reactant | trimethylaluminum | C[Al](C)C
reactant | 3-iodo-2-pyridinesulfonamide | 15 mmol | IC=1C(=NC=CC1)S(=O)(=O)N | C5H5IN2O2S
reactant | methyl 4,6-dimethoxy-1,3,5-triazin-2-yl-carbamate | 18 mmol | COC1=NC(=NC(=N1)OC)NC(OC)=O | C7H10N4O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(4,6-Dimethoxy-1,3,5-triazin-2-yl)-1-(3-iodo-2-pyridylsulfonyl)urea | COC1=NC(=NC(=N1)OC)NC(NS(=O)(=O)C1=NC=CC=C1I)=O | C11H11IN6O5S
